US07560586B2
(R)-2-(3-{3-[[4-Methoxy-benzyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}-phenyl)acetic acid hydrochloride salt
Following the procedure of Example 7(d) except (R)-2-(3-{3-[(2,2-diphenylethyl)amino]2-methyl-propoxy}phenyl)acetic acid and 4-methoxybenzaldehyde were used instead of (R)-2-(3-{3-(2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester and 2-chloro-3-trifluoromethylbenzaldehyde in step (d) the corresponding carboxylic acid was obtained. The resulting amine/carboxylic acid was dissolved in Et2O (diethylether) and acidified with 1.0 M HCl/Et2O. The reaction mixture was concentrated in vacuo and dried under reduced pressure to give the title compound as a white solid, 94 mg (97%). MS (ESI) 524.4 (M+H+).

reactant | (R)-2-(3-{3-[(2,2-diphenylethyl)amino]2-methyl-propoxy}phenyl)acetic acid | C1(=CC=CC=C1)C(CNC[C@H](COC=1C=C(C=CC1)CC(=O)O)C)C1=CC=CC=C1 | C26H29NO3
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | HCl Et2O | 1.0 M | Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | (R)-2-(3-{3-[[4-Methoxy-benzyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}-phenyl)acetic acid hydrochloride salt | Cl.COC1=CC=C(CN(C[C@H](COC=2C=C(C=CC2)CC(=O)O)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C34H37NO4.ClH/c1-26(25-39-32-15-9-10-28(20-32)21-34(36)37)22-35(23-27-16-18-31(38-2)19-17-27)24-33(29-11-5-3-6-12-29)30-13-7-4-8-14-30;/h3-20,26,33H,21-25H2,1-2H3,(H,36,37);1H/t26-;/m1./s1
